US04461896
(±) 1,1'-[Dithiobis(1-oxo-2,1-ethanediyl)]-bis-1,2,3,4-tetrahydro-2-quinolinecarboxylic Acid
(±)-1,2,3,4-Tetrahydro-1-(2-mercapto-1-oxoethyl)-2-quinolinecarboxylic acid (3 g) was suspended in water (40 ml) and the pH was adjusted to 6.5 with 2 N sodium hydroxide. A saturated solution of iodine in ethanol was then added dropwise while maintaining the pH at 6.5 by the slow addition of 2 N sodium hydroxide. When a yellow color remained for at least five minutes, addition of the iodine solution was terminated and the yellow color was discharged with saturated aqueous sodium thiosulfate. The mixture was then acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The combined extracts were washed with 10% hydrochloric acid and water, dried over magnesium sulfate, and concentrated under reduced pressure. The (±) 1,1'-[dithiobis(1-oxo-2,1-ethanediyl)]-bis-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid was recrystallized from ethyl acetate; yield 0.7 g, m.p. 172°-174°.

reactant | (±)-1,2,3,4-Tetrahydro-1-(2-mercapto-1-oxoethyl)-2-quinolinecarboxylic acid | 3 g | SCC(=O)N1C(CCC2=CC=CC=C12)C(=O)O | C12H13NO3S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | iodine | II | I2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | (±) 1,1'-[Dithiobis(1-oxo-2,1-ethanediyl)]-bis-1,2,3,4-tetrahydro-2-quinolinecarboxylic Acid | O=C(CSSCC(=O)N1C(CCC2=CC=CC=C12)C(=O)O)N1C(CCC2=CC=CC=C12)C(=O)O | C24H24N2O6S2
